US05672703
The procedure of Example 1 was repeated with the exception that aminoacetaldehyde dimethyl acetal (6.3 g, 0.060 mole) and cyanuric chloride (3.68 g, 0.02 mole) were used to give 2,4,6-tris-(2,2-dimethoxyethylamino)-1,3,5-triazine as an oily product in 80.8% isolated yield (6.3g). The structure was analyzed by infrared (IR) spectroscopy, and confirmed by NMR spectroscopy 1H NMR (δ): 4.2 (t, 1H), 3.6-3.2 (m, 2H), 3.4 (s, 6H).

reactant | aminoacetaldehyde dimethyl acetal | 0.060 mole, 6.3 g | COC(CN)OC | C4H11NO2
reactant | cyanuric chloride | 0.02 mole, 3.68 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
product | 2,4,6-tris-(2,2-dimethoxyethylamino)-1,3,5-triazine | COC(CNC1=NC(=NC(=N1)NCC(OC)OC)NCC(OC)OC)OC | C15H30N6O6
